US06800651B2
N-(4-(Phenoxy)phenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine
Using the method of Example 343 using N-(4-phenoxypheny)pyridin-3-ylmethylamine and 2,2,2-trifluoroethanesulfonyl chloride (Aldrich) and purifying via preparative HPLC eluting with 90:10 to 70:30 DCM/ethyl acetate gave the title compound. Anal Calcd for C20H17F3N2O3S: C, 56.87; H, 4.06; N, 6.63. Found: C, 56.76; H, 4.09; N, 6.69. MS found 423.1 [M+H]+

reactant | N-(4-phenoxypheny)pyridin-3-ylmethylamine | O(C1=CC=CC=C1)C1=CC=C(C=C1)NCC=1C=NC=CC1 | C18H16N2O
reactant | 2,2,2-trifluoroethanesulfonyl chloride | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
product | N-(4-(Phenoxy)phenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine | O(C1=CC=CC=C1)C1=CC=C(C=C1)N(S(=O)(=O)CC(F)(F)F)CC=1C=NC=CC1 | C20H17F3N2O3S
